US04111850
A mixture of 12.0 g (60.3 mmol) of 3,6-dimethyl-1,2,3,4,-tetrahydrocarbazole and 3.6 g of 10% palladium on charcoal (46-190, Strem Chemicals, Danvers, Mass.) in 120 ml xylene was refluxed vigorously (150° C) overnight. Addition of 200 ml of ethyl acetate, filtration of the cooled mixture through Celite 545 and evaporation of solvents gave 11.0 g (94%) of 3,6-dimethylcarbazole, mp 218°-21° C (lit. mp 217°-18° C).

reactant | 3,6-dimethyl-1,2,3,4,-tetrahydrocarbazole | 60.3 mmol, 12.0 g | CC1CCC=2NC3=CC=C(C=C3C2C1)C | C14H17N
reactant | ethyl acetate | 200 ml | C(C)(=O)OCC | C4H8O2
catalyst | palladium on charcoal | 3.6 g | [Pd] | Pd
solvent | xylene | 120 ml | C=1(C(=CC=CC1)C)C | C8H10
product | 3,6-dimethylcarbazole | 11.0 g, 94% | CC=1C=CC=2NC3=CC=C(C=C3C2C1)C | C14H13N
